US04612376
To a suspension of 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione (1.0 g) in a mixture of water (5 ml) and methanol (5 ml) was added potassium hydroxide (0.57 g), and to an almost dissolved mixture was added methyl iodide (5 ml). The mixture was stirred at ambient temperature for 18 hours. The resulting precipitates were filtered and washed successively with water, ethanol and diisopropyl ether to afford 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (0.13 g).

reactant | 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione | 1.0 g | COC=1C=C(C=CC1OC)C1=CC(NC(N1)=O)=O | C12H12N2O4
reactant | potassium hydroxide | 0.57 g | [OH-].[K+]
reactant | methyl iodide | 5 ml | CI | CH3I
solvent | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 0.13 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=O | C13H14N2O4
